US05962462
Step 1B: 5-(Methylamino)-3-phenylpentan-1-ol
A suspension of 4-(N-methylcarbamoyl)-3-phenylbutyric acid (250 mg, 1.13 mmol) in 5.0 mL of THF was stirred in an ice bath as a 1.0 M solution of LAH (4.5 mL, 4.5 mmol) in THF was added dropwise over 10 min. The mixture was stirred 1 h at room temperature followed by 3 h at reflux. The reaction was then cooled in the ice bath and quenched with 0.70 mL of saturated aqueous Rochelle salt. The resulting precipitate was filtered and washed with 100 mL of ethyl acetate, and the combined filtrates were concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with 10-15% methanol in dichloromethane containing 1% ammonium hydroxide, to give 151 mg of the title compound as a viscous oil. 1NMR (400 MHz, CD3OD): δ 7.32-7.26 (m, 2H), 7.22-7.16 (m, 3H), 3.45-3.32 (m, 2H). 2.80-2.70 (m, 1H), 2.44 (ddd, 1H, J=12, 10, 6 Hz), 2.32 (ddd, 1H, J=12, 10, 6 Hz), 2.28 (s, 3H), 1.94-1.74 (m, 4H). Mass spectrum (NH3 /CI): m/z=194 (M+1).

reactant | 4-(N-methylcarbamoyl)-3-phenylbutyric acid | 1.13 mmol, 250 mg | CNC(=O)CC(CC(=O)O)C1=CC=CC=C1 | C12H15NO3
reactant | LAH | 4.5 mmol, 4.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 5-(Methylamino)-3-phenylpentan-1-ol | 151 mg | CNCCC(CCO)C1=CC=CC=C1 | C12H19NO
